US04221912
By substituting (±)-1-[3-(acetylthio)-2-methyl-1-oxopropyl]-4,5-dihydro-4-fluoro-1H-pyrrole-2-carboxylic acid for the (±)-1-[3-(acetylthio)-2-methyl-1-oxopropyl]-4,5-dihydro-1H-pyrrole-2-carboxylic acid in the procedure of Example 2, (±)-4,5-dihydro-4-fluoro-(3-mercapto-2-methyl-1-oxopropyl)-1H-pyrrole-2-carboxylic acid is obtained.

reactant | (±)-1-[3-(acetylthio)-2-methyl-1-oxopropyl]-4,5-dihydro-4-fluoro-1H-pyrrole-2-carboxylic acid | C(C)(=O)SCC(C(=O)N1C(=CC(C1)F)C(=O)O)C | C11H14FNO4S
reactant | (±)-1-[3-(acetylthio)-2-methyl-1-oxopropyl]-4,5-dihydro-1H-pyrrole-2-carboxylic acid | C(C)(=O)SCC(C(=O)N1C(=CCC1)C(=O)O)C | C11H15NO4S
product | (±)-4,5-dihydro-4-fluoro-(3-mercapto-2-methyl-1-oxopropyl)-1H-pyrrole-2-carboxylic acid | FC1C=C(N(C1)C(C(CS)C)=O)C(=O)O | C9H12FNO3S
